US07332510B2
2-Chloro-4-[1-(3-fluoro-4-methyl-phenyl)-2-methyl-1H-imidazol-4-ylethynyl]-pyridine
The title compound, MS: m/e=326.4 (M+H+), was prepared in accordance with the general method of example 7 from 2-chloro-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine and 3-fluoro-4-methyl-benzene boronic acid.

reactant | 2-chloro-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine | ClC1=NC=CC(=C1)C#CC=1N=C(NC1)C | C11H8ClN3
reactant | 3-fluoro-4-methyl-benzene boronic acid | FC=1C=C(C=CC1C)B(O)O | C7H8BFO2
product | 2-Chloro-4-[1-(3-fluoro-4-methyl-phenyl)-2-methyl-1H-imidazol-4-ylethynyl]-pyridine | ClC1=NC=CC(=C1)C#CC=1N=C(N(C1)C1=CC(=C(C=C1)C)F)C | C18H13ClFN3
